US07829560B2
3-Fluoro-N-{4-[2-(2-oxopyrrolidin-1-yl)ethoxy]-1-naphthyl}-5-piperidin-1-ylbenzamide (Compound B181).
Compound is prepared from tert-butyl (4-hydroxy-1-naphthyl)carbamate, 3-fluoro-5-piperidin-1-yl-benzoic acid and 1-(2-hydroxyethyl)-pyrrolidin-2-one according to conditions described in general procedure D. A white solid is produced (27 mg). Mp: 161-162° C.; 1H NMR (300 MHz, CDCl3) δ 1.62-1.70 (m, 6H), 1.99-2.09 (m, 2H), 2.35-2.44 (m, 2H), 3.16-3.27 (m, 2H), 3.63-3.68 (m, 2H), 3.84 (d, J=5.1Hz, 2H), 4.26 (d, J=4.8 Hz, 2H), 6.73-6.79 (m, 2H), 6.70 (d, J=8.4 Hz, 1H), 7.32 (s, 1H), 7.49-7.58 (m, 2H), 7.68 (d, J=8.1Hz, 1H), 7.84 (d, J=7.8 Hz, 1H), 8.03 (s, 1H), 8.24-8.27 (m, 1H); MS 476 (M+1).

reactant | tert-butyl (4-hydroxy-1-naphthyl)carbamate | OC1=CC=C(C2=CC=CC=C12)NC(OC(C)(C)C)=O | C15H17NO3
reactant | 3-fluoro-5-piperidin-1-yl-benzoic acid | FC=1C=C(C(=O)O)C=C(C1)N1CCCCC1 | C12H14FNO2
reactant | 1-(2-hydroxyethyl)-pyrrolidin-2-one | OCCN1C(CCC1)=O | C6H11NO2
product | 3-Fluoro-N-{4-[2-(2-oxopyrrolidin-1-yl)ethoxy]-1-naphthyl}-5-piperidin-1-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OCCN2C(CCC2)=O)C=C(C1)N1CCCCC1 | C28H30FN3O3
